* C:\Users\Nanodyn - Spare\OneDrive - Nanodyn\Desktop\GIT repository\Waveform-generator\LTspice Circuits\High side MOSFET switch.asc
R1 N003 0 100
V1 N001 0 5
V2 N002 0 PULSE(0 3.3 0 0 0 2 4 10)
M1 N001 N002 N003 N003 NMOS
R3 N001 N002 1000
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Nanodyn - Spare\OneDrive - Nanodyn\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 10 0
.backanno
.end
