* C:\Users\Nanodyn - Spare\OneDrive - Nanodyn\Desktop\GIT repository\Waveform-generator\LTspice Circuits\High side transistor switch.asc
V2 N003 0 PULSE(0 3.3 0 0 0 2 4 10)
Q1 N002 P001 0 0 NPN
R2 P001 N003 10k
R1 N001 N002 10k
Q2 N004 N002 N001 0 PNP
R3 N004 0 10k
V1 N001 0 5
.model NPN NPN
.model PNP PNP
.lib C:\Users\Nanodyn - Spare\OneDrive - Nanodyn\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 10 0
.backanno
.end
