* C:\Users\Nanodyn - Spare\OneDrive - Nanodyn\Desktop\GIT repository\Waveform-generator\LTspice Circuits\Transistor LED switch.asc
V1 N002 0 PULSE(0 3.3 0 0 0 1 2 100)
R1 P001 N002 33
r P002 N001 470
V2 N001 0 3.3
Q1 P003 P001 0 0 NPN
D1 P002 P003 D
.model D D
.lib C:\Users\Nanodyn - Spare\OneDrive - Nanodyn\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Nanodyn - Spare\OneDrive - Nanodyn\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 10 0 1
.backanno
.end
